US05382584
N-(4-amino-2,6-dichlorophenyl)-4-formyl-1-piperazineacetamide (III)
A mixture of N-(4-nitro-2,6-dichlorophenyl)-4-formyl-1-piperazineacetamide (1.79 g crude) was suspended in methanol (50 mL) containing 4% methanolic thiophene (0.5 mL) and 5% platinum on charcoal catalyst (900 mg). This was hydrogenated using a Parr apparatus for 30 minutes at 50° C. and 26 psi. After filtration and the removal of solvent in vacuo, the filtrate yielded 1.38 g of crude residue. This was subjected to flash chromatography on deactivated silica gel (from a slurry of 300 g of silica gel in methylene chloride containing 3.4 mL of conc. NH4OH). The product was eluted with CH2Cl2 :MeOH:NH4OH 98.8:1.0:0.2 yielding 590 mg of III an off-white solid. This was triturated in methylene chloride-ether to yield a white solid (520 mg, 39% yield).: m.p.>220° C. (dec.).

reactant | N-(4-nitro-2,6-dichlorophenyl)-4-formyl-1-piperazineacetamide | 1.79 g | [N+](=O)([O-])C1=CC(=C(C(=C1)Cl)NC(CN1CCN(CC1)C=O)=O)Cl | C13H14Cl2N4O4
reactant | thiophene | 0.5 mL | S1C=CC=C1 | C4H4S
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 50 mL | CO | CH4O
catalyst | platinum on charcoal | 900 mg | [Pt] | Pt
solvent | methylene chloride | 3.4 mL | C(Cl)Cl | CH2Cl2
product | N-(4-amino-2,6-dichlorophenyl)-4-formyl-1-piperazineacetamide | 520 mg, 39% yield | NC1=CC(=C(C(=C1)Cl)NC(CN1CCN(CC1)C=O)=O)Cl | C13H16Cl2N4O2
